US07691882B2
4-(5-Fluoro-pyridin-2-yloxymethyl)-benzonitrile
To an N,N-dimethylformamide (50 mL) solution of 2-bromo-5-fluoropyridine (5 g, 28.4 mmol) and 4-(hydroxymethyl)-benzonitrile (5.67 g, 42.4 mmol) was added sodium hydride (1.7 g, 42.4 mmol, 60% in oil) at room temperature. The mixture was stirred for 3 hours at 70° C. The mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH-silica gel column chromatography (heptane:ethyl acetate=4:1-2:1-1:1-ethyl acetate) to obtain the title compound (5.5 g, 85%).

reactant | 2-bromo-5-fluoropyridine | 28.4 mmol, 5 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | 4-(hydroxymethyl)-benzonitrile | 42.4 mmol, 5.67 g | OCC1=CC=C(C#N)C=C1 | C8H7NO
reactant | sodium hydride | 42.4 mmol, 1.7 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(5-Fluoro-pyridin-2-yloxymethyl)-benzonitrile | 5.5 g, 85% | FC=1C=CC(=NC1)OCC1=CC=C(C#N)C=C1 | C13H9FN2O
